US05026856
7-(2-isoindolinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
133 mg of 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 83 mg of isoindoline, 152 mg of DBU, and 1.5 ml of anhydrous DMF were processed in the same manner as in Example 1 to produce 65 mg of the target compound.

reactant | 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 133 mg | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C13H9F2NO3
reactant | isoindoline | 83 mg | C1NCC2=CC=CC=C12 | C8H9N
reactant | DBU | 152 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 7-(2-isoindolinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 65 mg | C1N(CC2=CC=CC=C12)C1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C21H17FN2O3
